US05635527
Methyl 5-bromo-2-hydroxybenzoate (25.6 g, 129 mmol), copper(I) cyanide (20.8 g, 257 mmol) and copper sulfate (200 mg) were added to N-methyl-2-pyrrolidone (250 ml) and the mixture was refluxed under heating for 2 hours under a nitrogen atmosphere. The reaction mixture was cooled to room temperature and poured into a mixture of water (500 ml) and ethylenediamine (10 ml). After filtration, the filtrate was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=5/1) to give 3.35 g of methyl 5-cyano-2-hydroxybenzoate as a colorless solid (15%). This solid (3.35 g, 18.9 mmol) and potassium carbonate (5.23 g, 37.0 mmol) were added to N,N-dimethylformamide (45 ml), and ethyl bromoacetate (2.21 ml, 19.9 mmol) was gradually added, which was followed by stirring at room temperature for 18 hours. Water was added to the reaction mixture and the mixture was extracted with an equivalent mixture of ethyl acetate and n-hexane. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure to give a crude product of ethyl 4-cyano-2-methoxycarbonylphenoxyacetate. This product (3.39 g, 19.3 mmol) was dissolved in ethanol (20 ml) and the obtained solution was gradually added to a solution of metallic sodium (622 mg, 27.1 mmol) dissolved in ethanol (50 ml). The mixture was stirred at room temperature for 45 minutes. Low boiling matters were distilled away from the reaction mixture under reduced pressure and water (200 ml) was added to the residue. Dilute hydrochloric acid was added to adjust the pH to 2-3. The resulting precipitate was collected by filtration to quantitatively give 2.98 g of ethyl 5-cyano-3-hydroxy-2-benzofurancarboxylate as a colorless solid.

reactant | Methyl 5-bromo-2-hydroxybenzoate | 129 mmol, 25.6 g | BrC=1C=CC(=C(C(=O)OC)C1)O | C8H7BrO3
reactant | copper(I) cyanide | 257 mmol, 20.8 g | [Cu]C#N
reactant | N-methyl-2-pyrrolidone | 250 ml | CN1C(CCC1)=O | C5H9NO
reactant | ethylenediamine | 10 ml | C(CN)N | C2H8N2
catalyst | copper sulfate | 200 mg | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 500 ml | O | H2O
product | methyl 5-cyano-2-hydroxybenzoate | 3.35 g, 15% | C(#N)C=1C=CC(=C(C(=O)OC)C1)O | C9H7NO3
